US03941796
3,5-Dihydroxyphenyl 6-methyl-2-pyridyl ketone is prepared according to example 1 from 3,5-dimethoxybenzaldehyde and 6-methyl picolinic acid. This intermediate is then reacted according to example 2 and purified to yield pure erythro-α-(3,5-dihydroxyphenyl)-α-(6-phenethyl-2-piperidinyl)methanol hydrochloride, m.p. 285°C.

reactant | 3,5-dimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | 6-methyl picolinic acid | CC1=CC=CC(=N1)C(=O)O | C7H7NO2
product | 3,5-Dihydroxyphenyl 6-methyl-2-pyridyl ketone | CC1=CC=CC(=N1)C(=O)C1=CC(=CC(=C1)O)O | C13H11NO3
